US07476668B2
Step A: 7-Methyl-4H-thieno[2,3-e][1,2,4]thiadiazine 1,1-dioxide
200 mg of 2-amino-4-methylthiophene-3-sulphonamide, the preparation of which is described in patent WO 99/03861, are dissolved in 1.5 ml of trimethyl orthoformate. The mixture is heated at 90° C. for 2 hours in an open vessel. After evaporation of the solvent under reduced pressure, the residue is taken up in 3 ml of ethyl acetate. The resulting insoluble material is collected by filtration, washed with diethyl ether and dried.

reactant | 2-amino-4-methylthiophene-3-sulphonamide | 200 mg | NC=1SC=C(C1S(=O)(=O)N)C | C5H8N2O2S2
reactant | trimethyl orthoformate | 1.5 ml | C(OC)(OC)OC | C4H10O3
product | 7-Methyl-4H-thieno[2,3-e][1,2,4]thiadiazine 1,1-dioxide | CC1=CSC=2NC=NS(C21)(=O)=O | C6H6N2O2S2
